2151-03-08 13:13:00 Physician Attending Progress Note
Chief Complaint: influenza c/b shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2151-3-7**] 10:32 AM
 ULTRASOUND - At [**2151-3-7**] 02:28 PM
   Off dopamine
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfonamides
   Rash;
   Dicloxacillin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-7**] 02:00 AM
   Levofloxacin - [**2151-3-7**] 06:47 AM
   Cefipime - [**2151-3-7**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-8**] 08:00 AM
   Other medications:
   SQH, nebs, vanco, leg ulcer gel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: hypotension improved -- now off pressors
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2151-3-8**] 01:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 71 (70 - 73) bpm
   BP: 102/61(72) {90/51(61) - 120/87(93)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 63 Inch
   CVP: 10 (6 - 14)mmHg
   Total In:
                                                                    788 mL
                                                                     80 mL
   PO:
   TF:
   IVF:
                                                                    788 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    515 mL
   Urine:
                                                                  2,200 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,412 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), distant
   heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : halfway up, Wheezes :
   substantial, diffuse)
   Skin:  Warm, leg ulcer looks clean
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   115 K/uL
   78 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   23 mg/dL
   107 mEq/L
   142 mEq/L
   34.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2151-3-6**]  09:22 PM
                             [**2151-3-6**]  11:18 PM
                             [**2151-3-7**]  05:28 AM
                             [**2151-3-7**]  04:39 PM
                             [**2151-3-8**]  04:05 AM
   WBC
   4.1
   5.4
   Hct
   35.2
   34.1
   Plt
   113
   115
   Cr
   1.2
   1.2
   1.1
   1.1
   TropT
   0.08
   0.18
   0.12
   TCO2
   26
   Glucose
   158
   130
   81
   78
   Other labs: PT / PTT / INR:14.7/33.0/1.3, CK / CKMB /
   Troponin-T:48/4/0.12, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Microbiology: influenza (+)
   Assessment and Plan
   87-year-old woman with acute respiratory distress in the setting of
   known severe aortic stenosis and coincident fever but not leucocytosis
   in the ED.
   PROBLEMS
 INFLUENZA
 RESPIRATORY DISTRESS
 SEPSIS SECONDARY TO INFLUENZA
   -- there's no evidence of bacterial infection at this point (although
   she is at high risk for Staphylococcal superinfection), so we will d/c
   antibiotics
   - begin tamiflu (may be out of window, but no trials in this patient
   population)
 SHOCK
   -- off pressors as of today
   -- do not diurese today, since just off pressors
 AORTIC STENOSIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   -          keep even to slightly negative today
   -
 LEG ULCER
   - continue dressings
   ICU Care
   Nutrition: eating
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2151-3-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 min
   Patient is critically ill
   9P ADDENDUM
   Ms. [**Known lastname 1787**] did well throughout the day, but developed sustained
   ventricular tachycardia with hypotension to the 60s this evening.
   Because she has directed DNR/DNI status, we did not cardiovert but
   instead drew up amiodarone.  She converted into sinus just prior to the
   amiodarone, with resulted increase in BPs to 110s.  Administered
   amiodarone as rhythm control [**Doctor Last Name **].  Will let family know.
   40 min

2151-03-08 15:32:00 Physician Resident Progress Note
Chief Complaint:
   SOB
   24 Hour Events:
   Flu B positive-> started osemiltamivir, d/c antibiotics
   Decrease FiO2 to 60% facemask
   Dopamine d/c
d at 5am
   S:
   Patient feeling better, easier to breathe
   Less productive sputum
   Allergies:
   Sulfonamides
   Rash;
   Dicloxacillin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-7**] 02:00 AM
   Levofloxacin - [**2151-3-7**] 06:47 AM
   Cefipime - [**2151-3-7**] 03:00 PM
   OSELTAMIVIR 75 mg [**Hospital1 **] [**3-8**]
   Infusions:
   Dopamine (d/c [**3-8**])
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-7**] 11:52 PM
   Other medications:
   Albuterol
   Morphine sulfate
   Sq heparin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-8**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 70 (70 - 73) bpm
   BP: 105/58(70) {90/51(61) - 120/87(93)} mmHg
   RR: 32 (17 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Height: 63 Inch
    CVP: 12 (6 - 14)mmHg
   Total In:
                                                                    788 mL
                                                                     56 mL
   PO:
   TF:
   IVF:
                                                                    788 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    360 mL
   Urine:
                                                                  2,200 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,412 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GEN: in mild resp distress, comfortable, speaking in full sentences,
   with good sense of humor
   HEENT: perrl, eomi.  Mmm
   COR: nl s1s2 no m/r/g
   PUL: diffuse rales, w/ expieratory wheezing. Crackles [**Date range (1) 1778**] up lung
   field bilaterally
   ABD: soft, nt/ nd, nabs
   EXTREM: no cyanosis, clubbibng, edema.  RLE: brown plaque with crust.
   Serpiginous wound ~ 3 cm diameter, w/ yellow fibrinous base
   NEURO: a+o x 3
   Labs / Radiology
   115 K/uL
   11.3 g/dL
   78 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   23 mg/dL
   107 mEq/L
   142 mEq/L
   34.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2151-3-6**]  09:22 PM
                             [**2151-3-6**]  11:18 PM
                             [**2151-3-7**]  05:28 AM
                             [**2151-3-7**]  04:39 PM
                             [**2151-3-8**]  04:05 AM
   WBC
   4.1
   5.4
   Hct
   35.2
   34.1
   Plt
   113
   115
   Cr
   1.2
   1.2
   1.1
   1.1
   TropT
   0.08
   0.18
   0.12
   TCO2
   26
   Glucose
   158
   130
   81
   78
   Other labs: PT / PTT / INR:14.7/33.0/1.3, CK / CKMB /
   Troponin-T:48/4/0.12, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   87yo F with multiple medical problems including [**Name2 (NI) 1757**] sinus s/p DDD
   pacer, afib (off anticoagulation [**1-16**] epistaxis, pumonary HTN, diastolic
   CHF EF 70%, CAD, COPD, Aortic stenosis who presents with shortness of
   breath.
   # SOB/hypoxemia
   DFA for Flu B +, consistent with fevers and hypoxemia.
   Improving on supportive therapy with oxygen, nebulization, as well as
   antibiotics.  As have source for fevers, impaired resp status (FLU),
   will d/c antibiotics.  Given poor substrate (AS), will start
   oseltamivir to reduce likelihood of ongoing infectious virions and
   subsequent fevers, decompensation.  Fluid status likely playing role in
   hypoxemia, however will err on hypervolemia given recent d/c of
   pressors.
   -          Oseltamivir
   -          d/c antibiotics
   -          albuterol nebs
   -          wean o2 to sat > 93%
   # Shock
   Resolved.  Likely due to hypoxia, decompensation in setting of tight
   AS.
   Will hold off on further diuresis
   Dopamine d/c
d [**3-8**].
   - hold home BP meds (metoprolol, lisinopril)
   # Cardiovascular /
   **AS
   Will avoid over-diuresis and subsequent hypotension.
   Treat fevers aggressively.
   **h/o VT
   Holding beta blocker for now given recent pressors
   Will restart shortly.
   # CKD
   At basline creatinine 1-1.1
   # Hypothyroidism
   TSH moderately elevated, however unclear how to interpret in setting of
   sickness, as well as recent change ([**2-25**]).
   Restart home meds levothyroxine @ 100 mcg daily
   # Depression
   Restart home celexa 60 mg daily
   .
   # Prophylaxis: sq heparin, bowel regimen  .
   # FEN: cardiac heart healthy as tolerates off face mask
   .
   #Access: R IJ placed [**3-6**]; will prob d/c [**3-9**] if BP stable.
   # Dispo: observe another 24 hrs in [**Hospital Unit Name 44**], awaiting stabilization of resp
   status
   ICU Care
   Nutrition:
   Cardiac heart healthy
   Glycemic Control:
   Lines: R IJ, PIV
   Multi Lumen - [**2151-3-6**] 08:00 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: none indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNI
   Disposition: in [**Hospital Unit Name 44**] 24 hrs

2151-03-09 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2151-3-8**] 12:06 PM
 TRANSTHORACIC ECHO - At [**2151-3-8**] 02:52 PM
 EKG - At [**2151-3-8**] 08:23 PM
   Allergies:
   Sulfonamides
   Rash;
   Dicloxacillin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-7**] 02:00 AM
   Levofloxacin - [**2151-3-7**] 06:47 AM
   Cefipime - [**2151-3-7**] 03:00 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-8**] 11:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-9**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 167) bpm
   BP: 89/59(67) {64/46(54) - 115/72(84)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 63 Inch
    CVP: 10 (7 - 17)mmHg
   Total In:
                                                                    335 mL
                                                                    202 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                    275 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    245 mL
   Urine:
                                                                    850 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -515 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   11.2 g/dL
   91 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   21 mg/dL
   107 mEq/L
   145 mEq/L
   33.7 %
   3.3 K/uL
        [image002.jpg]
                             [**2151-3-6**]  09:22 PM
                             [**2151-3-6**]  11:18 PM
                             [**2151-3-7**]  05:28 AM
                             [**2151-3-7**]  04:39 PM
                             [**2151-3-8**]  04:05 AM
                             [**2151-3-8**]  08:06 PM
                             [**2151-3-9**]  03:59 AM
   WBC
   4.1
   5.4
   3.3
   Hct
   35.2
   34.1
   33.7
   Plt
   113
   115
   105
   Cr
   1.2
   1.2
   1.1
   1.1
   1.1
   0.9
   TropT
   0.08
   0.18
   0.12
   TCO2
   26
   Glucose
   158
   130
   81
   78
   120
   91
   Other labs: PT / PTT / INR:12.5/57.0/1.1, CK / CKMB /
   Troponin-T:48/4/0.12, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87yo F with multiple medical problems including [**Name2 (NI) 1757**] sinus s/p DDD
   pacer, afib (off anticoagulation [**1-16**] epistaxis, pumonary HTN, diastolic
   CHF EF 70%, CAD, COPD, Aortic stenosis who presents with shortness of
   breath.
   # SOB/hypoxemia
   DFA for Flu B +, consistent with fevers and hypoxemia.
   Improving on supportive therapy with oxygen, nebulization, as well as
   antibiotics.  As have source for fevers, impaired resp status (FLU),
   will d/c antibiotics.  Given poor substrate (AS), will start
   oseltamivir to reduce likelihood of ongoing infectious virions and
   subsequent fevers, decompensation.  Fluid status likely playing role in
   hypoxemia, however will err on hypervolemia given recent d/c of
   pressors.
   -          Oseltamivir
   -          d/c antibiotics
   -          albuterol nebs
   -          wean o2 to sat > 93%
   # Shock
   Resolved.  Likely due to hypoxia, decompensation in setting of tight
   AS.
   Will hold off on further diuresis
   Dopamine d/c
d [**3-8**].
   - hold home BP meds (metoprolol, lisinopril)
   # Cardiovascular /
   **AS
   Will avoid over-diuresis and subsequent hypotension.
   Treat fevers aggressively.
   **h/o VT
   Holding beta blocker for now given recent pressors
   Will restart shortly.
   # CKD
   At basline creatinine 1-1.1
   # Hypothyroidism
   TSH moderately elevated, however unclear how to interpret in setting of
   sickness, as well as recent change ([**2-25**]).
   Restart home meds levothyroxine @ 100 mcg daily
   # Depression
   Restart home celexa 60 mg daily
   .
   # Prophylaxis: sq heparin, bowel regimen  .
   # FEN: cardiac heart healthy as tolerates off face mask
   .
   #Access: R IJ placed [**3-6**]; will prob d/c [**3-9**] if BP stable.
   # Dispo: observe another 24 hrs in [**Hospital Unit Name 44**], awaiting stabilization of resp
   status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-3-6**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: